US06329381B1
6-Amino-9-benzyl-2-(2-hydroxyethoxyl)-8-methoxypurine
6-Amino-9-benzyl-8-bromo-2-(2-methoxyethoxyl)purine (130 mg, 0.36 mmol) in methanol (50 ml) was dissolved in 28% sodium methoxide/methanol (3 ml) and the solution was refluxed on heating under stirring for 10 hours. The reaction mixture was concentrated in vacuo to dryness, and to the residue was added saturated brine. The mixture was extracted with chloroform and the organic layer was dried on sodium sulfate, followed by removal of the solvent. The residue was purified with silica gel chromatography (3% methanol/chloroform) to give the subject compound (78 mg, yield 69%).

reactant | 6-Amino-9-benzyl-8-bromo-2-(2-methoxyethoxyl)purine | 0.36 mmol, 130 mg | NC1=C2N=C(N(C2=NC(=N1)OCCOC)CC1=CC=CC=C1)Br | C15H16BrN5O2
reactant | methanol | 50 ml | CO | CH4O
solvent | sodium methoxide methanol | 3 ml | C[O-].[Na+].CO
product | 6-Amino-9-benzyl-2-(2-hydroxyethoxyl)-8-methoxypurine | 78 mg, yield 69% | NC1=C2N=C(N(C2=NC(=N1)OCCO)CC1=CC=CC=C1)OC | C15H17N5O3
